US06720320B2
3-chloro-6-methoxy-N,N-dimethylbenzo(b)thiophene-2-carboxamide
3.0 g of 3-chloro-6-methoxy-benzo(b)thiophene-2-carboxylic acid (7.0 g) synthesized from 4-methoxycinnamic acid (10.0 g) and thionyl chloride (15 ml) according to the method described in J. Med. Chem. 1992, 35, 958-965 was reacted with dimethylamine hydrochloride and triethylamine in THF to give the title compound (1.9 g) as a brown oil.

reactant | 3-chloro-6-methoxy-benzo(b)thiophene-2-carboxylic acid | 3.0 g | ClC=1C2=C(SC1C(=O)O)C=C(C=C2)OC | C10H7ClO3S
reactant | 4-methoxycinnamic acid | 10.0 g | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine hydrochloride | Cl.CNC
solvent | THF | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-chloro-6-methoxy-N,N-dimethylbenzo(b)thiophene-2-carboxamide | 1.9 g | ClC=1C2=C(SC1C(=O)N(C)C)C=C(C=C2)OC | C12H12ClNO2S
